US05283248
2-[7-Benzylamino-1-cyclopropyl-4,6-difluoro-5-(4-methylpiperazin-1-yl)-1H-benzimidazol-2yl]-N-benzyloxy-acetamide (2.6 g, 4.64 mmol) is reacted with N,N'-carbonyldiimidazole (1.5 g, 9.28 mmol) in dimethylformamide (50 ml) at room temperature for 1 day. At the end of the reaction, the volatiles are evaporated under reduced pressure and the residue chromatographed on silica gel (eluent: 5% methanol-dichloromethane). The relevant fractions are concentrated in vacuo until crystals form. Filtration affords 0.57 g of 6-benzylamino-2-benzyloxy-5-cyclopropyl-7,9-difluoro-8-(4-methyl-piperazin-1-yl)-1,2,3,5-tetrahydro-pyrimido[1,6-a]benzimidazole-1,3-dione as colorless crystals (21%): mp: 214° C.; NMR (DMSO-d6): 0.97 (m,2H),1.18(m,2H),2.23(s,3H),2.42(m,4H),3.13 (m,5H),4.35(d,J=6.5 Hz,2H),5.05(s,2H),5.36(s,1H),7.22-7.61 (m,11H).

reactant | 2-[7-Benzylamino-1-cyclopropyl-4,6-difluoro-5-(4-methylpiperazin-1-yl)-1H-benzimidazol-2yl]-N-benzyloxy-acetamide | 4.64 mmol, 2.6 g | C(C1=CC=CC=C1)NC1=C(C(=C(C2=C1N(C(=N2)CC(=O)NOCC2=CC=CC=C2)C2CC2)F)N2CCN(CC2)C)F | C31H34F2N6O2
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-benzylamino-2-benzyloxy-5-cyclopropyl-7,9-difluoro-8-(4-methyl-piperazin-1-yl)-1,2,3,5-tetrahydro-pyrimido[1,6-a]benzimidazole-1,3-dione | 0.57 g, 21% | C(C1=CC=CC=C1)NC1=C(C(=C(C=2N3C(N(C21)C2CC2)=CC(N(C3=O)OCC3=CC=CC=C3)=O)F)N3CCN(CC3)C)F | C32H32F2N6O3
